US06355655B1
2-(N-Methyl-2-pyrrolidinyl)proprionitrile
2-Acetyl-N-methylpyrrolidine 0.979g (7.7 mmol) and toluenesulfonylmethyl isocyanide 2.3 g (11.5 mmol) are dissolved in 50 mL of dry DME and cooled to −78° C. while stirring under N2. To this mixture is added dropwise a solution of potassium t-butoxide 1.75 g (15.4 mmol) in 15 mL of hot t-butanol. The reaction mixture is stirred at −78° C. for 3 h then poured into 50 mL of H2O and extracted with 150 mL of dichloromethane and 150 mL of EtOAc. The organic layers are combined, washed with saturated NaHCO3 and saturated NaCl, dried and concentrated in vacuo. Purification by chromatography gives the title compound.

reactant | 2-Acetyl-N-methylpyrrolidine | 7.7 mmol, 0.979g | C(C)(=O)C1N(CCC1)C | C7H13NO
reactant | toluenesulfonylmethyl isocyanide | 11.5 mmol, 2.3 g | C=1(C(=CC=CC1)S(=O)(=O)C[N+]#[C-])C | C9H9NO2S
reactant | potassium t-butoxide | 15.4 mmol, 1.75 g | CC(C)([O-])C.[K+]
reactant | H2O | 50 mL | O | H2O
solvent | DME | 50 mL | COCCOC | C4H10O2
solvent | t-butanol | 15 mL | C(C)(C)(C)O | C4H10O
product | 2-(N-Methyl-2-pyrrolidinyl)proprionitrile | CN1C(CCC1)C(C#N)C | C8H14N2
